* mosiv.sp

*---------------------------------------------------------
* Parameters and models
*---------------------------------------------------------

.include  '../models.ibm065/models.sp'
.temp 70
.option post

*------------------------------------------------------------
* Simulation Netlist
*-------------------------------------------------------------

*nmos
Vgs g gnd 0
Vds d gnd 0
M1 d g gnd gnd NMOS W=100n L=50n
*--------------------------------------------------------------
* Stimulus
*--------------------------------------------------------------
.dc Vds 0 1.0 0.05 SWEEP Vgs 0 1.0 0.2
.end
